US03963709
7-Cyanomethylsulfonylacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid
t-Butyl 7-amino-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate (5.75 g, 15 mmol), cyanomethylsulfonylacetic acid (2.45 g, 15 mmol), and dicylohexylcarbodiimide (3.1 g, 15 mmol) were reacted as in Example 6. The t-butyl ester was treated with trifluoroacetic acid for 20 minutes as in Example 6, to give the title compound.

reactant | t-Butyl 7-amino-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate | 15 mmol, 5.75 g | NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)OC(C)(C)C)C1=O | C14H20N6O3S2
reactant | cyanomethylsulfonylacetic acid | 15 mmol, 2.45 g | C(#N)CS(=O)(=O)CC(=O)O | C4H5NO4S
reactant | dicylohexylcarbodiimide | 15 mmol, 3.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 7-Cyanomethylsulfonylacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | C(#N)CS(=O)(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O | C14H15N7O6S3
